US06787543B2
Potassium carbonate (81.3 mg) was added to a mixture of [(2R)-6-benzhydryl-4-(2-methoxybenzyl)piperazin-2-yl]methanol dihydrochloride (48.0 mg) in a mixed solvent of dichloromethane and water. Chloroacetyl chloride was. added to the mixture below 5° C. and the whole was stirred for 1 hour. The organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated under reduced pressure. The resulting residue was dissolved into tert-butanol (4 ml) and potassium tert-butoxide (22.0 mg) was added to the mixture. The reaction mixture was poured into aqueous sodium hydrogen carbonate, and the whole was extracted with ethyl acetate. The extract was dried over magnesium sulfate, and evaporated under reduced pressure. The residue was purified by preparative TLC (15 PLC plate 20×20 cm, silica gel 60 F254, 1 mm, Merck) with a mixture of hexane and ethyl acetate as an eluent to give (9aR)-6-benzhydryl-8-(2-methoxybenzyl)hexahydropyrazino[2,1-c][1,4]oxazin-4-one (30 mg) as a colorless oil.

reactant | Potassium carbonate | 81.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | [(2R)-6-benzhydryl-4-(2-methoxybenzyl)piperazin-2-yl]methanol dihydrochloride | 48.0 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(C[C@@H](N1)CO)CC1=C(C=CC=C1)OC
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | Chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | water | O | H2O
product | (9aR)-6-benzhydryl-8-(2-methoxybenzyl)hexahydropyrazino[2,1-c][1,4]oxazin-4-one | 30 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(C[C@@H]2COCC(N21)=O)CC2=C(C=CC=C2)OC | C28H30N2O3
